US08445684B2
To a solution of 1-(tert-butoxycarbonyl)-4-[2-(4-fluorobenzyloxy)ethyl]piperidine (257 mg, 0.76 mmol) in MeOH (0.5 mL) was added 2N anhydrous HCl/ether (1.0 mL, 2.0 mmol). The reaction mixture was stirred overnight. After evaporation, the residue was dissolved in deionized water. EtOAc was used to wash the aqueous layer before the pH was altered to approx. 9-10. The aqueous layer was extracted three times with CH2Cl2, and the combined organic phases were dried over Na2SO4. After evaporation, 4-[2-(4-fluorobenzyloxy)ethyl]piperidine (150 mg, 83% yield) was obtained as a colorless oil.

reactant | 1-(tert-butoxycarbonyl)-4-[2-(4-fluorobenzyloxy)ethyl]piperidine | 0.76 mmol, 257 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOCC1=CC=C(C=C1)F | C19H28FNO3
reactant | HCl ether | 2.0 mmol, 2N, 1.0 mL | Cl.CCOCC
solvent | MeOH | 0.5 mL | CO | CH4O
product | 4-[2-(4-fluorobenzyloxy)ethyl]piperidine | 150 mg, 83% yield | FC1=CC=C(COCCC2CCNCC2)C=C1 | C14H20FNO
